US06008243
3-(Biphenyl-4-yl)-2,5-dihydro-2,5-dimethoxyfuran
To a slurry of 3-(biphenyl-4-yl)furan (100 mg, 0.450 mmol) and Na2CO3 (48 mg, 0.45 mmol) in benzene (1 mL) and MeOH (1 mL) at -10° C. was added bromine (22 μL, 0.43 mmol) dropwise via syringe. After 30 minutes at -10° C., the mixture was diluted with EtOAc and filtered twice. The filtrate was concentrated to give a crude solid which was purified via flash column chromatography with a 0-1% EtOAc/CH2Cl2 gradient eluant to provide 90 mg (74%) of a diasteromeric mixture of 3-(biphenyl-4-yl)-2,5-dihydro-2,5-dimethoxyfuran as a colorless oil. 1H NMR (CDCl3): δ 7.70-7.28 (m, 9H), 6.35 (dd, 0.75H, major isomer, J=0.9, 0.9 Hz), 6.30 (d, 0.25H, minor isomer, J=6.0 Hz), 6.04-6.03 (m, 1H, major+minor isomer), 5.71 (d, 0.75H, major isomer, J=0.9 Hz), 3.60-3.40 (m, 6H). Anal. Calculated for C18H18O3 : C, 76.57; H, 6.43. Found: C, 76.52; H, 6.38.

reactant | 3-(biphenyl-4-yl)furan | 0.450 mmol, 100 mg | C1(=CC=C(C=C1)C1=COC=C1)C1=CC=CC=C1 | C16H12O
reactant | Na2CO3 | 0.45 mmol, 48 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | bromine | 0.43 mmol, 22 μL | BrBr | Br2
reactant | benzene | 1 mL | C1=CC=CC=C1 | C6H6
solvent | MeOH | 1 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(Biphenyl-4-yl)-2,5-dihydro-2,5-dimethoxyfuran | 90 mg, 74% | C1(=CC=C(C=C1)C=1C(OC(C1)OC)OC)C1=CC=CC=C1 | C18H18O3
